US07659409B2
Synthesis of N-methyl-3-oxo-3-(2-thienyl)propionamide
A 9.8 g (126.26 mmol) portion of 40% methylamine/methanol solution was added to 20 ml of methanol solution containing 5 g (25.25 mmol) of 3-oxo-3-(2-thienyl)propionic acid ethyl ester obtained in Reference Example 1 and stirred at room temperature for 19 hours. After the reaction, the solvent and excess methylamine were evaporated under a reduced pressure to obtain 4.6 g of crystals of N-methyl-3-oxo-3-(2-thienyl)propionamide.

reactant | methylamine methanol | CN.CO
reactant | 3-oxo-3-(2-thienyl)propionic acid ethyl ester | 25.25 mmol, 5 g | C(C)OC(CC(C=1SC=CC1)=O)=O | C9H10O3S
solvent | methanol | 20 ml | CO | CH4O
product | N-methyl-3-oxo-3-(2-thienyl)propionamide | 4.6 g | CNC(CC(C=1SC=CC1)=O)=O | C8H9NO2S
